US05919807
6-(4-Bromobutyloxy)-2-(4-chlorophenylmercapto)-benzothiazole
0.74 g (2.5 mmol) of 6-hydroxy-2-(4-chlorophenylmercapto)-benzothiazole are dissolved in 20 ml of dimethylformamide and after the addition of 2.16 g (10 mmol) of 1.4-dibromobutane and 2.07 g (15 mmol) of potassium carbonate the resulting mixture is stirred for 20 hours at ambient temperature. The mixture is then added to water and extracted with ethyl acetate. The extracts are dried and evaporated down. The evaporation residue is purified by column chromatography on silica gel (eluant: petroleum ether/ethyl acetate=4:1). Yield: 0.85 g (79.3% of theory), oil.

reactant | 6-hydroxy-2-(4-chlorophenylmercapto)-benzothiazole | 2.5 mmol, 0.74 g | OC1=CC2=C(N=C(S2)SC2=CC=C(C=C2)Cl)C=C1 | C13H8ClNOS2
reactant | 1.4-dibromobutane | 10 mmol, 2.16 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(4-Bromobutyloxy)-2-(4-chlorophenylmercapto)-benzothiazole | BrCCCCOC1=CC2=C(N=C(S2)SC2=CC=C(C=C2)Cl)C=C1 | C17H15BrClNOS2
